US20010029283A1
Reference Example 1. 6 mol Of toluene were added dropwise over a period of 1 hour to a mixture of 3.75 mol sulfuric acid and 2.25 mol fuming sulfuric acid at a mixture temperature of 45 to 60° C. The reaction mixture was heated for another 30 minutes at 45° C., which gave toluenesulfonic acid monohydrate. A mixture of 1 mol trichlorosilane and 6.6 mol toluene was added dropwise to this over a period of 5 hours at 30° C., and the reaction mixture was heated for another 30 minutes at 45° C. After the solution was allowed to cool and separate, the toluenesulfonic acid layer (at the bottom) was removed, after which the top layer was washed with a suitable amount of sulfuric acid/water (50/50 weight ratio), then with a suitable amount of sulfuric acid/water (25/75 weight ratio), and then with pure water in order to remove the acid contained in the top layer. Azeotropic dehydration was then performed for 1 hour in order to remove the water completely. The toluene solution obtained in this manner was put under reduced pressure with a vacuum pump at 60° C. to remove the toluene, which gave a hydrogen silsesquioxane resin whose main skeleton consisted of siloxane units described by formula HSiO3/2. This hydrogen silsesquioxane resin had a number average molecular weight of 1650, and the ratio of the weight average molecular weight/number average molecular weight was 19.4.

reactant | toluene | 6 mol | C1(=CC=CC=C1)C | C7H8
reactant | sulfuric acid | 3.75 mol | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 2.25 mol | S(O)(O)(=O)=O | H2O4S
product | toluenesulfonic acid monohydrate | O.C=1(C(=CC=CC1)S(=O)(=O)O)C | InChI=1S/C7H8O3S.H2O/c1-6-4-2-3-5-7(6)11(8,9)10;/h2-5H,1H3,(H,8,9,10);1H2
